US08242145B2
Step 1: {4-Ethoxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid ethyl ester
To {4-hydroxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid ethyl ester (0.060 g, 0.12 mmol) in MeCN (2 mL) was added cesium carbonate (0.086 g, 0.26 mmol) and iodoethane (0.02 mL, 0.26 mmol), and the reaction was stirred at room temperature overnight. After work-up with EtOAc and 10% aqueous HCl, the crude material was purified by silica gel chromatography to give the title compound.

reactant | {4-hydroxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid ethyl ester | 0.12 mmol, 0.060 g | C(C)OC(CC1=CC(=C(C=C1)O)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C28H26F3NO6
reactant | cesium carbonate | 0.26 mmol, 0.086 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 0.26 mmol, 0.02 mL | ICC | C2H5I
solvent | MeCN | 2 mL | CC#N | C2H3N
product | {4-Ethoxy-3-[2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OCC)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C30H30F3NO6
